US06015905
Gaseous hydrogen chloride was bubbled through a solution of 3-isochromanone (2.0 g, 13.5 mmol) in methanol (30 ml) for 0.5 hour at room temperature and the reaction stirred for a further 2 hours. The methanol was removed under reduced pressure and the residue was dissolved in dichloromethane and dried. Removal of the solvent gave methyl 2-chloromethylphenylacetate (2.62 g, 98%) as an oil which was used without further purification; 1H NMR (270 MHz)δ: 3.70(3H,s), 3.81(2H,s), 4.68(2H,s), 7.22-7.40(4H,m) ppm.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-isochromanone | 13.5 mmol, 2.0 g | C1OC(CC2=CC=CC=C12)=O | C9H8O2
reactant | methanol | 30 ml | CO | CH4O
product | methyl 2-chloromethylphenylacetate | 2.62 g, 98% | ClCC1=C(C=CC=C1)CC(=O)OC | C10H11ClO2
